US04197417
63.3 Parts of benzyl chloride at 20° are slowly added during 2 hours to a mixture of 1 part of iron (III) chloride and 531 parts of p-xylene held at a temperature of 115°-120° C. The rate of hydrogen chloride evolution is found to be directly proportional to the rate of benzyl chloride addition. After addition, the mixture is held at 120° C. for 3 hours then filtered to remove insoluble matter, and the unreacted p-xylene (406 parts) removed by atmospheric distillation at 135°-145° C. The residue is distilled under reduced pressure at 2-3 mm Hg and a further fraction of p-xylene (64 parts) is obtained at 30°-40° C. The total recovery of p-xylene is 470 parts (98% recovery). The product, 2,5-dimethyldiphenylmethane is obtained at 126°-134° C.: yield 80 parts (82% of theory). A residue of 10.1 parts of polymer remains after distillation.

reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrogen chloride | Cl | ClH
reactant | p-xylene | CC=1C=CC(=CC1)C | C8H10
catalyst | iron (III) chloride | [Fe](Cl)(Cl)Cl
product | 2,5-dimethyldiphenylmethane | CC1=CC(=C(C=C1)C)CC2=CC=CC=C2 | C15H16
